US07629344B2
Synthesis of 1-[(S)-4-(4-Chloro-2-fluoro-5-methoxyphenyl)-2-methylpiperazin-1-yl]-2-[3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]ethanone
The title compound was prepared following Protocol A. (S)-1-(4-Chloro-2-fluoro-5-methoxy-phenyl)-3-methylpiperazine dihydrochloride and [3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]acetic acid were used as the coupling components. The crude product was purified by silica gel chromatography (2% to 3% MeOH in CH2Cl2) to provide 1-[(S)-4-(4-chloro-2-fluoro-5-methoxyphenyl)-2-methylpiperazin-1-yl]-2-[3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]ethanone as a tan solid (29 mg): 1H NMR (CDCl3, 400 MHz) 8.79 (dd, 1H), 8.55 (dd, 1H), 7.27-7.21 (m, 3H), 7.07 (d, 1H), 6.43 (br. d, 1H), 5.46-5.37 (m, 2H), 4.83 (br. s, 0.3H), 4.51-4.48 (m, 0.6H), 4.28-4.21 (m, 0.6H), 3.86 (s, 0.9H), 3.85 (s, 2.1H), 3.79 (br. s, 0.3H), 3.67 (br. s, 0.3H), 3.33-3.21 (m, 2.5H), 2.95-2.93 (m, 0.9H), 2.83-2.76 (m, 1.6H), 1.48-1.40 (m, 3H); LC/MS m/z (M+H)+ 484.4.

reactant | (S)-1-(4-Chloro-2-fluoro-5-methoxy-phenyl)-3-methylpiperazine dihydrochloride | Cl.Cl.ClC1=CC(=C(C=C1OC)N1C[C@@H](NCC1)C)F
reactant | [3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]acetic acid | N1C(=NC=C1)C1=NN(C2=NC=CC=C21)CC(=O)O | C11H9N5O2
product | 1-[(S)-4-(4-chloro-2-fluoro-5-methoxyphenyl)-2-methylpiperazin-1-yl]-2-[3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]ethanone | 29 mg | ClC1=CC(=C(C=C1OC)N1C[C@@H](N(CC1)C(CN1N=C(C=2C1=NC=CC2)C=2NC=CN2)=O)C)F | C23H23ClFN7O2
